US07531532B2
3-Methylimidazolidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide
To 1-[6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]-3-(2-methylaminoethyl)urea (56.8 mg) dissolved in tetrahydrofuran (5 ml) was added paraformaldehyde (59 mg), followed by stirring at 80° C. for 1 hour. The reaction mixture was cooled to room temperature, and partitioned between ethyl acetate and 2N aqueous solution of sodium hydroxide. The separated organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=95:5) to provide the titled compound (22.4 mg, 38%) as white powder.

reactant | 1-[6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]-3-(2-methylaminoethyl)urea | 56.8 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)NCCNC)C=C1)F | C14H17FN6O2
reactant | paraformaldehyde | 59 mg | C=O | CH2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-Methylimidazolidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 22.4 mg, 38% | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CN(CC2)C)C=C1)F | C15H17FN6O2
